US06828460B2
(±)-3-(2,4-Dihydroxyphenyl)cyclopentanone Oxime
(±)-3-(2,4-Dihydroxyphenyl)cyclopentanone (5 mg), hydroxylamine hydrochloride (2.7 mg) and triethylamine (5.4 uM) were heated in EtOH (4 ml) under reflux for 3 hr. The reaction mixture was partitioned between ethyl acetate (20 ml) and water (20 ml). The aqueous phase was extracted with ethyl acetate (10 ml), and the combined organic phases were washed with brine (10 ml), dried over magnesium sulfate, and concentrated in vacuo. The crude residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 4:1 v/v) to furnish the title compound as a white solid and a mixture of isomers (3.8 mg, 71%). δH (d4-MeOH) 1.80-1.93 (1H, overlapping m), 2.05-2.20 (0.5H, m), 2.39-2.55 (3H, overlapping m), 2.68-2.74 (1H, overlapping m), 2.94 (0.5H, br dd), 6.26-6.33 (2H, overlapping m), 6.94 (0.5H, d), 6.96 (0.5H, d); m/z (ES−) 266 ((M+60)−1)−.

reactant | (±)-3-(2,4-Dihydroxyphenyl)cyclopentanone | 5 mg | OC1=C(C=CC(=C1)O)C1CC(CC1)=O | C11H12O3
reactant | hydroxylamine hydrochloride | 2.7 mg | Cl.NO
reactant | triethylamine | 5.4 uM | C(C)N(CC)CC | C6H15N
solvent | EtOH | 4 ml | CCO | C2H6O
product | (±)-3-(2,4-Dihydroxyphenyl)cyclopentanone Oxime | OC1=C(C=CC(=C1)O)C1CC(CC1)=NO | C11H13NO3
